US05932571
Synthesis of 4-(1-(2-methoxyethyl)-1H-benzimidazol-2-yl) [1,4]diazepane hydriodic acid salt
Combine 1-(t-butoxycarbonyl)-4-(1-(2-methoxyethyl)-1H-benzimidazol-2-yl) [1,4]diazepane (1.69 g, 5.23 mmol), aqueous hydriodic acid (10 mL, 57%), and ethanol (20 mL). Heat to reflux. After 1 hour, cool to ambient temperature and pour the reaction mixture into diethyl ether (350 mL) and stir to give a solid. After 1 hour, collect the solid and dry in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-methoxyethyl)-1H-benzimidazol-2-yl) [1,4]diazepane | 5.23 mmol, 1.69 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOC)C=CC=C2 | C20H30N4O3
reactant | hydriodic acid | 10 mL | I | HI
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
product | 4-(1-(2-methoxyethyl)-1H-benzimidazol-2-yl) [1,4]diazepane hydriodic acid salt | I.COCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C15H22N4O.HI/c1-20-12-11-19-14-6-3-2-5-13(14)17-15(19)18-9-4-7-16-8-10-18;/h2-3,5-6,16H,4,7-12H2,1H3;1H
